US05254558
2-[2-(4-Fluorophenyl)-5-methylamino-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide
To a solution of 2-[2-(4-fluorophenyl)-5-(N-trifluoroacetyl-N-methylamino)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3,-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.58 g) in tetrahydrofuran (5 mL) was added water (10 mL) followed by potassium carbonate (0.76 g). The mixture was stirred overnight, extracted into dichloromethane, washed (water, brine), dried (MgSO4) and evaporated. The residue was purified by chromatography, with dichloromethane:methanol (gradient, 99.5:0.5, 98.5:1.5) as the eluent, to give the title compound; TLC: Rf =0.34, dichloromethane:methanol (98:2); NMR: 0.70-1.0 (m,6), 2.03-2.33 (m,1), 2.71 (d,3), 4.00-4.70 (m,3), 5.63-5.73 (m,1), 7.03 (s,1), 7.17-7.30 (m,2), 7.43-7.60 (m,2), 8.81 (d,1); MS: m/z=429(M+1).

reactant | 2-[2-(4-fluorophenyl)-5-(N-trifluoroacetyl-N-methylamino)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3,-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.58 g | FC1=CC=C(C=C1)C=1N(C(C(=CN1)N(C)C(C(F)(F)F)=O)=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C21H19F7N4O4
reactant | water | 10 mL | O | H2O
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[2-(4-Fluorophenyl)-5-methylamino-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | FC1=CC=C(C=C1)C=1N(C(C(=CN1)NC)=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C19H20F4N4O3
